US06388088B1
A mixture of zinc dust (3.92 g, 60 mmol, Aldrich, −325 mesh) and dry tetrahydrofuran (4 mL) under argon was treated with 1,2-dibromoethane (0.56 g, 3 mmol). The zinc suspension was then heated with a heat gun to ebullition, allowed to cool, and heated again. This process was repeated three times to make sure the zinc dust was activated. The activated zinc dust suspension was then treated with trimethylsilyl chloride (0.32 g, 3 mmol, and the suspension was stirred for 15 min at 25° C. The reaction mixture was then treated dropwise with a solution of cyclopentylmethyl iodide (4.2 g, 20 mmol) in dry tetrahydrofuran (7 mL) over 5 min. During the addition, the temperature rose to 50° C., and the reaction mixture was stirred overnight at 40-45° C. The reaction mixture was then cooled to 25° C. and diluted with dry tetrahydrofuran (5 mL). The stirring was stopped to allow the excess zinc dust to settle down (˜2 h). In a separate reaction flask, a mixture of lithium chloride (1.7 g, 40 mmol, predried at 130° C. under high vacuum for 2 h) and copper cyanide (1.79 g, 20 mmol) in dry tetrahydrofuran (20 mL) was stirred for 10 min at 25° C. to obtain a clear solution. The reaction mixture was cooled to −70° C. and then the slowly treated with the freshly prepared zinc solution using a syringe. After the addition, the reaction mixture was allowed to warm to −30° C., where it was stirred for 5 min. The reaction mixture was again cooled back to −70° C. and then slowly treated with methyl propiolate (1.52 g, 18 mmol). The reaction mixture was stirred for 4 h at −40° C. to −30° C. and then slowly treated with a solution of iodine (6.85 g, 27 mmol) in dry tetrahydrofuran (10 mL), with the temperature kept at −70° C. to −60° C. After the addition of the iodine solution, the cooling bath was removed, and the reaction mixture was allowed to warm to 25° C. where it was stirred for 1 h. The reaction mixture was then poured into a solution consisting of a saturated aqueous ammonium chloride solution (90 mL) and anunonium hydroxide (10 mL), and the organic compound was extracted into diethyl ether (3×50 mL). The combined ether extracts were successively washed with a saturated aqueous sodium thiosulfate solution (1×100 mL) and a saturated aqueous sodium chloride solution (1×100 mL), dried over anhydrous magnesium sulfate, filtrated, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 9/1 hexanes/diethyl ether) afforded (E)-4-cyclopentyl-2-iodo-but-2-enoic acid methyl ester (4.56 g, 86%) as a colorless oil: EI-HRMS m/e calcd for C10H15IO2 (M+) 294.0116, found 294.0114.

reactant | 1,2-dibromoethane | 3 mmol, 0.56 g | BrCCBr | C2H4Br2
reactant | trimethylsilyl chloride | C[Si](C)(C)Cl | C3H9ClSi
reactant | cyclopentylmethyl iodide | 20 mmol, 4.2 g | C1(CCCC1)CI | C6H11I
reactant | lithium chloride | 40 mmol, 1.7 g | [Cl-].[Li+]
reactant | copper cyanide | 20 mmol, 1.79 g | [Cu](C#N)C#N
reactant | methyl propiolate | 18 mmol, 1.52 g | C(C#C)(=O)OC | C4H4O2
reactant | iodine | 27 mmol, 6.85 g | II | I2
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | zinc | 60 mmol, 3.92 g | [Zn] | Zn
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | (E)-4-cyclopentyl-2-iodo-but-2-enoic acid methyl ester | 4.56 g, 86% | COC(/C(=C\CC1CCCC1)/I)=O | C10H15IO2
